US08084620B2
Step 1 A solution of ethyl 2-hydroxy-6-methylbenzoate (2.04 g, 11.32 mmol) in methanol (25 mL) was treated at rt with 1 M aqueous sodium hydroxide (45.3 mL, 45.3 mmol) and the mixture was heated at reflux for 6 h. The mixture was cooled to rt and the methanol was removed under vacuum. The aqueous residue was treated with 1 M hydrochloric acid to pH ca. 1. The precipitate was collected by filtration, washed with water and dried under vacuum to give 2-hydroxy-6-methylbenzoic acid as a white solid (1.62 g, 94%). 1H NMR (400 MHz, methanol-d4) δ 7.26 (1H, t, J=7.92 Hz), 6.75 (2H, t, J=7.92 Hz), 2.55 (3H, s). Mass spectrum m/z 153.1 (M+H)+.

reactant | ethyl 2-hydroxy-6-methylbenzoate | 11.32 mmol, 2.04 g | OC1=C(C(=O)OCC)C(=CC=C1)C | C10H12O3
reactant | sodium hydroxide | 45.3 mmol, 1 M, 45.3 mL | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | 2-hydroxy-6-methylbenzoic acid | 1.62 g, 94% | OC1=C(C(=O)O)C(=CC=C1)C | C8H8O3
